US04666923
(b) 3,3-Dimethyl-5-(4-pyridinoylamino)-indolin-2-one
A suspension of 5.0 g. (0.028 mol) 5-amino-3,3-dimethylindolin-2-one in 100 ml. methylene chloride containing 14 ml. triethylamine is mixed, while cooling, with 7.0 g. (0.04 mol) isonicotinic acid chloride hydrochloride. Subsequently, the reaction mixture is evaporated and the residue is digested with water, filtered with suction and recrystallised from ethanol. Yield: 5.8 g. (73% of theory); m.p.>300° C.

reactant | 5-amino-3,3-dimethylindolin-2-one | 0.028 mol | NC=1C=C2C(C(NC2=CC1)=O)(C)C | C10H12N2O
reactant | methylene chloride | 14 ml | C(Cl)Cl | CH2Cl2
reactant | isonicotinic acid chloride hydrochloride | 0.04 mol | Cl.C(C1=CC=NC=C1)(=O)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3,3-Dimethyl-5-(4-pyridinoylamino)-indolin-2-one | CC1(C(NC2=CC=C(C=C12)NC(=O)C1=CC=NC=C1)=O)C | C16H15N3O2
